US07893304B2
[16-(t-Butyldimethylsilanyloxy)hexadecyl]-(2,5-dimethoxyphenyl)amine (144.2 mg) was dissolved in tetrahydrofuran, and then tetrabutylammonium fluoride (1 M solution in THF) (3.4 ml) was added to this solution. The reaction mixture was stirred for one day at room temperature. Saturated ammonium chloride solution was added to the reaction mixture, which was then extracted three times with diethyl ether. The organic layer was washed with saline solution and dried over magnesium sulfate, and the solvent was distilled off at reduced pressure. Purification of the residue by silica gel flash chromatography (heptane:ethyl acetate=6:4) gave 16-(2,5-dimethoxyphenylamino)hexadecan-1-ol as white crystals at an 81% yield.

reactant | [16-(t-Butyldimethylsilanyloxy)hexadecyl]-(2,5-dimethoxyphenyl)amine | 144.2 mg | [Si](C)(C)(C(C)(C)C)OCCCCCCCCCCCCCCCCNC1=C(C=CC(=C1)OC)OC | C30H57NO3Si
reactant | tetrabutylammonium fluoride | 1 M, 3.4 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 16-(2,5-dimethoxyphenylamino)hexadecan-1-ol | 81% yield | COC1=C(C=C(C=C1)OC)NCCCCCCCCCCCCCCCCO | C24H43NO3
